US05852031
A mixture of 0.500 g (1.89 mmol) of (7R,9aS)-7-(4-fluorophenoxy)methyl-2,3,4,6,7,8,9,9a-octahydro-1H-pyrido[1,2-a]pyrazine (Preparation 8), 0.400 g (2.84 mmol) of 4-fluoronitrobenzene and 0.401 g (3.78 mmol) of sodium carbonate in 15 mL of DMSO was heated at 95° C. for 16 h. The mixture was cooled to room temperature, acidified with 1M HCl, washed with ethyl ether (3×), basified with conc. ammonium hydroxide and extracted with ethyl acetate (3×). The combined organic layers were washed with water and brine, dried (magnesium sulfate), filtered and evaporated to give 0.614 g of (7R,9aS)-7-(4-fluorophenoxy)methyl-2-(4-nitrophenyl)-2,3,4,6,7,8,9,9a-octahydro-1H-pyrido[1,2-a]pyrazine.

reactant | (7R,9aS)-7-(4-fluorophenoxy)methyl-2,3,4,6,7,8,9,9a-octahydro-1H-pyrido[1,2-a]pyrazine | 1.89 mmol, 0.500 g | FC1=CC=C(OC[C@@H]2CC[C@@H]3N(CCNC3)C2)C=C1 | C15H21FN2O
reactant | 4-fluoronitrobenzene | 2.84 mmol, 0.400 g | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | sodium carbonate | 3.78 mmol, 0.401 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | HCl | 1M | Cl | ClH
solvent | DMSO | 15 mL | CS(=O)C | C2H6OS
product | (7R,9aS)-7-(4-fluorophenoxy)methyl-2-(4-nitrophenyl)-2,3,4,6,7,8,9,9a-octahydro-1H-pyrido[1,2-a]pyrazine | 0.614 g | FC1=CC=C(OC[C@@H]2CC[C@@H]3N(CCN(C3)C3=CC=C(C=C3)[N+](=O)[O-])C2)C=C1 | C21H24FN3O3
